US04226763
5-Chloro-2-[-2'-hydroxy-3',5'-di(α,α-dimethylbenzyl)phenyl]-2H-benzotriazole
When, using the general procedure of example 3, the amount of 4-chloro-2-nitro-2'-hydroxy-3',5'-di-(α,α-dimethylbenzyl)azobenzene was substituted for 2-nitro-2'-hydroxy-3',5'-di-(α,α-dimethylbenzyl)azobenzene, the above-named compound was prepared in a yield of 70.0% as light tan crystalls melting at 160°-161° C.

reactant | 4-chloro-2-nitro-2'-hydroxy-3',5'-di-(α,α-dimethylbenzyl)azobenzene | ClC1=CC(=C(C=C1)N=NC1=C(C(=CC(=C1)C(C1=CC=CC=C1)(C)C)C(C1=CC=CC=C1)(C)C)O)[N+](=O)[O-] | C30H28ClN3O3
reactant | 2-nitro-2'-hydroxy-3',5'-di-(α,α-dimethylbenzyl)azobenzene | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=C(C(=CC(=C1)C(C1=CC=CC=C1)(C)C)C(C1=CC=CC=C1)(C)C)O | C30H29N3O3
product | 5-Chloro-2-[-2'-hydroxy-3',5'-di(α,α-dimethylbenzyl)phenyl]-2H-benzotriazole | yield of 70.0% | ClC1=CC=2C(=NN(N2)C2=CC(=CC(=C2)C(C2=C(C=CC=C2)O)(C)C)C(C2=CC=CC=C2)(C)C)C=C1 | C30H28ClN3O
